US06826033B2
To a solution of N-[4-[(2S)-2-amino-3-hydroxypropyl]phenyl]-N′-phenylurea hydrochloride (222 mg) in ethanol (5.0 ml) were added successively N,N-diisopropylethylamine (264 μl) and (2S)-2-[[4-(benzyloxy)phenoxy)methyl]oxirane (212 mg) and the solution was refluxed for 13.5 hours. After cooling to room temperature, the precipitates were collected by filtration, washed with ethanol, and dried under reduced pressure to give N-[4-[(2S)-2-[[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-hydroxypropyl]phenyl]-N′-phenylurea (166 mg) as a white solid.

reactant | N-[4-[(2S)-2-amino-3-hydroxypropyl]phenyl]-N′-phenylurea hydrochloride | 222 mg | Cl.N[C@@H](CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)CO
reactant | N,N-diisopropylethylamine | 264 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S)-2-[[4-(benzyloxy)phenoxy)methyl]oxirane | 212 mg | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H]2OC2)C=C1 | C16H16O3
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | N-[4-[(2S)-2-[[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-hydroxypropyl]phenyl]-N′-phenylurea | 166 mg | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CN[C@@H](CC2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)CO)O)C=C1 | C32H35N3O5
